### PR TITLE
Switch suffixes of more distributivity/morphism lemmas

### LINKED ISSUE #480: Switching suffixes of more distributivity lemmas
It might be better to have short suffixes `D` and `B` rather than `_add` and `_sub` in the following lemmas.
```
algebra/fraction.v:158:Lemma pi_add : {morph \pi : x y / addf x y >-> add x y}.

algebra/matrix.v:1232:Lemma map_mx_sub A B : (A - B)^f = A^f - B^f.

algebra/mxalgebra.v:2380:Lemma mulsmx_addr m1 m2 m3 n
algebra/mxalgebra.v-2381-                  (R1 : 'A_(m1, n)) (R2 : 'A_(m2, n)) (R3 : 'A_(m3, n)) :
algebra/mxalgebra.v-2382-  (R1 * (R2 + R3) = R1 * R2 + R1 * R3)%MS.

algebra/poly.v:431:Lemma polyC_add : {morph polyC : a b / a + b}.

algebra/poly.v:437:Lemma polyC_sub : {morph polyC : a b / a - b}.

algebra/poly.v:1525:Lemma derivn_sub n : {morph derivn n : p q / p - q}.

algebra/polydiv.v:563:Lemma rdivp_addr q r : rdvdp d r -> rdivp (q + r) d = rdivp q d + rdivp r d.

algebra/polydiv.v:584:Lemma rmodp_add p q : rmodp (p + q) d = rmodp p d + rmodp q d.

algebra/polydiv.v:2504:Lemma modp_add p q : (p + q) %% d = p %% d + q %% d.

algebra/polydiv.v:2513:Lemma divp_add p q : (p + q) %/ d = p %/ d + q %/ d.

algebra/polydiv.v:2826:Lemma modp_add d p q : (p + q) %% d = p %% d + q %% d.

algebra/polydiv.v:2837:Lemma divp_add d p q : (p + q) %/ d = p %/ d + q %/ d.

algebra/ring_quotient.v:175:Lemma pi_addr zqT : {morph \pi_zqT : x y / addT x y >-> x + y}.

algebra/ring_quotient.v:537:Lemma pi_add : {morph \pi : x y / x + y >-> add x y}.

algebra/ssrint.v:140:Lemma oppz_add : {morph oppz : m n / m + n}.

algebra/vector.v:1494:Lemma limg_add f : {morph lfun_img f : U V / U + V}%VS.

algebra/zmodp.v:125:Lemma Zp_mul_addr : right_distributive Zp_mul Zp_add.

ssreflect/bigop.v:453:Lemma mulm_addr : right_distributive mul add.

ssreflect/seq.v:2422:Lemma iota_add m n1 n2 : iota m (n1 + n2) = iota m n1 ++ iota (m + n1) n2.

ssreflect/ssrnat.v:921:Lemma iter_add n m f x : iter (n + m) f x = iter n f (iter m f x).
```
Since I did this mechanically with `grep` and did not check the meaning of them entirely, I need some input to prepare a PR.

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Closes #480. We still have to check lemmas about `opp` (`N`), `mul` (`M`), `inv` (`V`), `exp` (`X`), and `scalel` (`Z`). I did not touch the internal lemmas yet.

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by pi8027** [comment]
https://github.com/math-comp/math-comp/blob/9bfc9834b46c1e492aaaf257cfa811d1e5e39065/mathcomp/ssreflect/div.v#L950-L963
The latter two should probably be `coprimeX(l|r)` but I'm not sure about the former two. `coprime_pX(l|r)`?

File: mathcomp/algebra/poly.v [hunk 1]
```diff
@@ -621,15 +620,14 @@ rewrite coefMr big_ord_recl subn0.
...
 Proof. by move=> a b; apply/polyP=> [[|i]]; rewrite coefCM !coefC ?simp. Qed.
 
 Fact polyC_multiplicative : multiplicative polyC.
-Proof. by split; first apply: polyC_mul. Qed.
+Proof. by split; first apply: polyCM. Qed.
 Canonical polyC_rmorphism := AddRMorphism polyC_multiplicative.
 
-Lemma polyC_exp n : {morph polyC : c / c ^+ n}.
-Proof. exact: rmorphX. Qed.
+Lemma polyCX n : {morph polyC : c / c ^+ n}. Proof. exact: rmorphX. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/poly.v:630]: Since `X` stands for a variable `polyX` in the polynomial theory, using it in `poly.v` for exponentiation may not be a good idea.

**Comment by pi8027** [comment]
Done. Ready for review except CHANGELOG.

File: mathcomp/algebra/poly.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/poly.v:630]: Yes indeed there is a tough call here... I'd say when there is no ambiguity (like here) we could keep `X`. @thery, @amahboubi  do you have an opinion on this?

File: mathcomp/algebra/polydiv.v [hunk 2]
```diff
@@ -1415,13 +1428,13 @@ suff Hmn m n: m %= n -> (m %| p) -> (n %| p).
 by rewrite /eqp; case/andP=> dd' d'd dp; apply: (dvdp_trans d'd).
 Qed.
 
-Lemma dvdp_scaler c m n : c != 0 -> m %| c *: n = (m %| n).
+Lemma dvdpZr c m n : c != 0 -> m %| c *: n = (m %| n).
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1431]:
```suggestion
Lemma dvdpZ c m n : c != 0 -> m %| c *: n = (m %| n).
```

File: mathcomp/algebra/polydiv.v [hunk 3]
```diff
@@ -1415,13 +1428,13 @@ suff Hmn m n: m %= n -> (m %| p) -> (n %| p).
...
 Proof. by move=> cn0; exact/eqp_dvdr/eqp_scale. Qed.
 
-Lemma dvdp_scalel c m n : c != 0 -> (c *: m %| n) = (m %| n).
+Lemma dvdpZl c m n : c != 0 -> (c *: m %| n) = (m %| n).
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1434]:
```suggestion
Lemma dvdZp c m n : c != 0 -> (c *: m %| n) = (m %| n).
```

File: mathcomp/algebra/polydiv.v [hunk 4]
```diff
@@ -1415,13 +1428,13 @@ suff Hmn m n: m %= n -> (m %| p) -> (n %| p).
...
 Proof. by move=> cn0; exact/eqp_dvdl/eqp_scale. Qed.
 
-Lemma dvdp_opp d p : d %| (- p) = (d %| p).
+Lemma dvdpN d p : d %| (- p) = (d %| p).
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1437]: Is there a  `dvdNp`?

File: mathcomp/algebra/polydiv.v [hunk 5]
```diff
@@ -1764,10 +1777,10 @@ Proof. by rewrite /coprimep=> /eqP. Qed.
 Lemma coprimep_def p q : coprimep p q = (size (gcdp p q) == 1%N).
 Proof. done. Qed.
 
-Lemma coprimep_scalel c m n : c != 0 -> coprimep (c *: m) n = coprimep m n.
+Lemma coprimepZl c m n : c != 0 -> coprimep (c *: m) n = coprimep m n.
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1780]:
```suggestion
Lemma coprimeZp c m n : c != 0 -> coprimep (c *: m) n = coprimep m n.
```

File: mathcomp/algebra/polydiv.v [hunk 6]
```diff
@@ -1764,10 +1777,10 @@ Proof. by rewrite /coprimep=> /eqP. Qed.
...
 Proof. by move=> ?; rewrite !coprimep_def (eqp_size (gcdp_scalel _ _ _)). Qed.
 
-Lemma coprimep_scaler c m n: c != 0 -> coprimep m (c *: n) = coprimep m n.
+Lemma coprimepZr c m n: c != 0 -> coprimep m (c *: n) = coprimep m n.
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1783]:
```suggestion
Lemma coprimeZp c m n: c != 0 -> coprimep m (c *: n) = coprimep m n.
```

File: mathcomp/algebra/polydiv.v [hunk 7]
```diff
@@ -1981,7 +1994,7 @@ Qed.
 Lemma Gauss_gcdpl p m n : coprimep p n -> gcdp p (m * n) %= gcdp p m.
 Proof. by move=> co_pn; rewrite mulrC Gauss_gcdpr. Qed.
 
-Lemma coprimep_mulr p q r : coprimep p (q * r) = (coprimep p q && coprimep p r).
+Lemma coprimepMr p q r : coprimep p (q * r) = (coprimep p q && coprimep p r).
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1997]:
```suggestion
Lemma coprimepM p q r : coprimep p (q * r) = (coprimep p q && coprimep p r).
```

File: mathcomp/algebra/polydiv.v [hunk 8]
```diff
@@ -1991,8 +2004,8 @@ rewrite Gauss_dvdpl in dqr; first exact: hq.
 by move/coprimep_dvdr: hr; apply.
 Qed.
 
-Lemma coprimep_mull p q r: coprimep (q * r) p = (coprimep q p && coprimep r p).
-Proof. by rewrite ![coprimep _ p]coprimep_sym coprimep_mulr. Qed.
+Lemma coprimepMl p q r: coprimep (q * r) p = (coprimep q p && coprimep r p).
```
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:2007]:
```suggestion
Lemma coprimeMp p q r: coprimep (q * r) p = (coprimep q p && coprimep r p).
```

Comment (CohenCyril) [reply mathcomp/algebra/polydiv.v:2007]: and so on...

**Comment by CohenCyril** [comment]
I'm wondering whether lemmas such as `mulnDl`, `mulnDr` and such should be renamed using "positional suffixes" (e.g. `mulDn` for left and `mulnD` for right) instead of `l` and `r`... Or would it be too much of a change...

File: mathcomp/algebra/polydiv.v (hunk 4 above)
Comment (CohenCyril) [inline mathcomp/algebra/polydiv.v:1437]: To be consistent: ```suggestion
Lemma dvdpNr d p : d %| (- p) = (d %| p).
```
and also add missing `dvdpNl`?

**Comment by pi8027** [comment]
Done.

File: mathcomp/algebra/poly.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/poly.v:630]: I think, at least for now, we should keep `exp` for polynomials.

**Comment by CohenCyril** [comment]
> The latter two should probably be `coprimeX(l|r)` but I'm not sure about the former two. Should they be `coprime_pX(l|r)` or is it too much to do?

I think it is too much indeed, let's keep it (as you did).

**Comment by pi8027** [comment]
> > The latter two should probably be `coprimeX(l|r)` but I'm not sure about the former two. Should they be `coprime_pX(l|r)` or is it too much to do?
> 
> I think it is too much indeed, let's keep it (as you did).

Now I think we should revert this part for the same reason as in `polyCX`.

File: mathcomp/algebra/poly.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/algebra/poly.v]: Done. I have also reverted `coprimepX(l|r)` to `coprimep_exp(l|r)`.

**Comment by herbelin** [comment]
For the record, it seems that the change around `iota_add` -> `iotaD` breaks the compilation of Coquelicot on Coq CI (e.g. [here](https://gitlab.com/coq/coq/-/jobs/822996322)). Something related to `hide` not propagating the scopes of `iota_add`. In particular, `(ssreflect.Deprecation.hide (fun iota_add iotaD => _) iotaD (m - n) n)` interprets `m - n` in the ambiant stack of scopes (thus in `R_scope` in the case of Coquelicot) while it is expected to be interpreted in `nat_scope`.

**Comment by CohenCyril** [comment]
Thanks @herbelin !
